US06897225B1
To a solution of 6-[4-[2-(hydroxymethyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione (0.318 g) in CH2Cl2 (5 mL) was added thionyl chloride (0.2 mL) and the mixture was stirred for 1 hour at room temperature. The mixture was concentrated and the residue was redissolved in CH2Cl2 (5 mL) and evaporated again. The residue was dried under vacuum to give 6-[4-[2-(chloromethyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione.

reactant | 6-[4-[2-(hydroxymethyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | 0.318 g | OCC1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C27H24Cl2N2O3
reactant | thionyl chloride | 0.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-[2-(chloromethyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | ClCC1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C27H23Cl3N2O2
